datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([C:12](=[S:13])[H:18])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:14])([H:15])[H:16])([C:12](=[S:13])[H:18])[H:17],65.2704
[C:0]#[C:1][C:2]#[C:3][C:4]#[C:5][H:6].[c:7]1([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18]>>[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:6])[H:13].[c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],0.0
[C:0]([C:1]1([H:12])[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])[H:11].[H:12],128.934144
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25],1.2552
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19],37.2376
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15](=[C:16]([H:18])[H:19])[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:15](=[C:16]([H:18])[H:19])[H:17])[H:8])([H:5])([H:6])[H:7],16.3176
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[S:14][H:21])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[S:14][H:21],37.2376
[C:1](=[C:2]1[C:4]([H:5])=[C:6]([H:7])[C:8][C:9]1([H:11])[H:12])([H:13])[H:14]>>[C:1](=[C:2]1[C:4]([H:5])=[C:6]([H:7])[C:8]([H:11])=[C:9]1[H:12])([H:13])[H:14],33.59752
[O:0]([S:1][H:3])[H:2].[O:4][O:5]>>[H:3][O:4][O:5].[O:0]([S:1])[H:2],125.52
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]=[S:10])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])=[S:10],61.9232
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]1[H:15])[H:9])([H:7])[H:8]>>[C:0](=[C:1][H:9])([H:7])[H:8].[C:2]1([H:10])=[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]1[H:15],140.5824
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9](=[S:10])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:14])[H:4].[C:7](=[C:8]([C:9]=[S:10])[H:13])([H:11])[H:12],74.4752
[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19])[H:12]>>[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4][c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19])[H:12].[H:14],619.549984
[N:0]([H:1])[H:2].[N:3]([O:4][H:6])[H:5]>>[N:0]([H:1])([H:2])[H:6].[N:3](=[O:4])[H:5],-4.8116
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30])[H:13])([H:10])([H:11])[H:12],56.0238
[C:0]([C:1]([S:2][C:3]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5]>>[C:0]([C:1]([S:2])([H:6])[H:7])([C:3]([H:8])([H:9])[H:10])([H:4])[H:5],191.209
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][H:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:17][O:18][H:19],57.40448
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:12][O:17][O:16][C:15]([H:18])([H:19])[H:20],68.99416
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](=[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:7]([C:6](=[C:5]([H:10])[H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18],-1.6736
